* Generated by electronics_design from a KiCad schematic
* KICAD_SINGLETON_LABEL output
.include "CMOS-555-subckt.lib"
.include "1N4148.mod"
R4 Vcc N004 8.2k
C2 N003 0 12u
R1 Vcc N002 68k
C1 N001 0 10n
C3 N005 0 120n
R5 N004 N005 8.2k
R2 N002 N003 68k
R3 intout intin 47k
V2 Vcc N006 PULSE(0 -1 10u 1u 1u 100u 100)
V1 N006 0 5
XU1 0 N003 intout Vcc N001 N003 N002 Vcc CMOS555
D1 N002 N003 D1N4148
XU2 0 N005 output Vcc intin N005 N004 Vcc CMOS555
.tran 1
.backanno
.end
